US06362341B1
N-Acetyl-cis-3-phenylproline ethyl ester (614 mg, 2.35 mmol) (prepared via the method of Chung, et al., J. Org. Chem.55: 270-275 (1990)) was dissolved in HOAc (4 mL) and 6N HCl (12 mL) and heated at reflux for 18 hr. The mixture was cooled to room temperature and the volatiles were evaporated in vacuo to give a white solid. The solid was dissolved in 1N NaOH (15 mL) and dioxane was added (10 mL), followed by 4-toluene-sulfonyl chloride (458 mg, 2.40 mmol). The mixture was stirred at room temp for 18 hr before addition of 6N HCl to bring the pH<4. The mixture was extracted with Et2O (3×40 mL) and the extracts were dried (MgSO4), filtered, and evaporated in vacuo to give N-(toluene-4-sulfonyl)-cis-3-phenylproline as a white solid (765 mg, 94%).

reactant | N-Acetyl-cis-3-phenylproline ethyl ester | 2.35 mmol, 614 mg | C(C)OC([C@H]1N(CC[C@H]1C1=CC=CC=C1)C(C)=O)=O | C15H19NO3
reactant | HCl | 6N, 12 mL | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | 4-toluene-sulfonyl chloride | 2.40 mmol, 458 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 6N | Cl | ClH
solvent | HOAc | 4 mL | CC(=O)O | C2H4O2
solvent | NaOH | 1N, 15 mL | [OH-].[Na+]
product | N-(toluene-4-sulfonyl)-cis-3-phenylproline | 765 mg, 94% | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)[C@@H](CC1)C1=CC=CC=C1)C | C18H19NO4S
